US04861878
3-Ethoxycarbonyl-1H-pyrido[2,3-b][1,4]-thiazine
4.8 g of ethyl α-chloro-formylacetate, dissolved in 70 ml of ethanol, are added to a solution of 4 g (0.0317 mole) of 2-mercapto-3-aminopyridine and 1.78 g (0.0317 mole) of potassium hydroxide in 200 ml of ethanol at 25° C. under nitrogen. The mixture is warmed at 50° C. for 1 hour, the ethanol is then stripped off in vacuo and the residue is chromatographed on silica gel with methylene chloride/methanol (95:5) as the mobile phase. Yield: 3.3 g (47% of theory) Melting point: 194°-195° C.

reactant | ethyl α-chloro-formylacetate | 4.8 g | ClC(C(=O)OCC)C=O | C5H7ClO3
reactant | 2-mercapto-3-aminopyridine | 0.0317 mole, 4 g | SC1=NC=CC=C1N | C5H6N2S
reactant | potassium hydroxide | 0.0317 mole, 1.78 g | [OH-].[K+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Ethoxycarbonyl-1H-pyrido[2,3-b][1,4]-thiazine | C(C)OC(=O)C1=CNC2=C(S1)N=CC=C2 | C10H10N2O2S
